US09403768B2
To (S)-1-((S)-2-tert-butoxycarbonylamino-2-phenyl-acetyl)-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester (2.78 g, 6.55 mmol, Eq: 1) was added 4 M HCl in dioxane (16.4 mL, 65.5 mmol, Eq: 10). The mixture was stirred at rt for 2 h. The solvent was removed in vacuo. After drying under vacuum, (S)-1-((S)-2-amino-2-phenyl-acetyl)-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester hydrochloride was obtained as an off-white solid which was used for next step without further purification.

reactant | (S)-1-((S)-2-tert-butoxycarbonylamino-2-phenyl-acetyl)-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester | 6.55 mmol, 2.78 g | C(C)OC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H28N2O5
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 65.5 mmol, 16.4 mL | O1CCOCC1 | C4H8O2
product | (S)-1-((S)-2-amino-2-phenyl-acetyl)-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C1=CC=CC=C1)N)=O | InChI=1S/C19H20N2O3.ClH/c1-2-24-19(23)16-12-14-10-6-7-11-15(14)21(16)18(22)17(20)13-8-4-3-5-9-13;/h3-11,16-17H,2,12,20H2,1H3;1H/t16-,17-;/m0./s1
